US04912104
3-Amino-7-butyl-2-(2-chloroethyl)-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A mixture of 3-amino-7-butyl-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H, 7H)-dione(8 g), 1-bromo-2-chloroethane(3.7 ml) and potassium carbonate(6.2 g) in DMF(100 ml) was stirred at 50°-60° C. for 12 hr. The reaction mixture was concentrated to dryness, and the concentrate was extracted with chloroform/water. The chloroform layer was washed with water, dried and concentrated to obtain a brown syrup, which was purified by flash chromatography(silica gel 100 g, chloroform). The purified syrupy product was crystallized from isopropylether to obtain colorless needles(21.5 g,66%), m.p. 118°-121° C.

reactant | 3-amino-7-butyl-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H, 7H)-dione | 8 g | NC1=NNC=2N(C(N(C(C21)=O)CCC)=O)CCCC | C12H19N5O2
reactant | 1-bromo-2-chloroethane | 3.7 ml | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 6.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-Amino-7-butyl-2-(2-chloroethyl)-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 21.5 g, 66% | NC=1N(N=C2N(C(N(C(C21)=O)CCC)=O)CCCC)CCCl | C14H22ClN5O2
